* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft10.asc
R1 b c 4
R2 0 c 5
V1 a 0 SINE(0 1 1K)
L1 b a 0.0001
.op
.backanno
.end
